### PR TITLE
[Merged by Bors] - chore(CategoryTheory/Sites): generalize universes in `Presieve.isSheafFor_iff_yonedaSheafCondition`

### PR DESCRIPTION
**Pull request by chrisflav**
We add a `shrinkYoneda` version and deduce the existing one from that.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/ShrinkYoneda.lean [hunk 1]
```diff
@@ -100,6 +100,20 @@ lemma shrinkYoneda_map_app_shrinkYonedaObjObjEquiv_symm
...
 
+set_option backward.isDefEq.respectTransparency false in
+lemma shrinkYonedaObjObjEquiv_map_app
+    {X X' : C} {Y : Cᵒᵖ} (f : (shrinkYoneda.{w, v, u}.obj X).obj Y) (g : X ⟶ X') :
+    shrinkYonedaObjObjEquiv ((shrinkYoneda.map g).app Y f) =
+      shrinkYonedaObjObjEquiv f ≫ g := by
+  simp [shrinkYoneda, shrinkYonedaObjObjEquiv]
+
+set_option backward.isDefEq.respectTransparency false in
+lemma shrinkYonedaObjObjEquiv_map {X : C} {Y Y' : Cᵒᵖ} (g : Y ⟶ Y')
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/ShrinkYoneda.lean]:
```suggestion
lemma shrinkYonedaObjObjEquiv_obj_map {X : C} {Y Y' : Cᵒᵖ} (g : Y ⟶ Y')
```

File: Mathlib/CategoryTheory/Sites/IsSheafFor.lean [hunk 2]
```diff
@@ -476,62 +476,82 @@ See the discussion before Equation (3) of [MM92], Chapter III, Section 4. See al
...
--- TODO: We can generalize the universe parameter v₁ above by composing with
--- appropriate `ulift_functor`s.
+set_option backward.isDefEq.respectTransparency false in
 /-- (Implementation). This is a (primarily internal) equivalence between natural transformations
 and compatible families.
 
 Cf the discussion after Lemma 7.47.10 in <https://stacks.math.columbia.edu/tag/00YW>. See also
 the proof of C2.1.4 of [Elephant], and the discussion in [MM92], Chapter III, Section 4.
 -/
-def natTransEquivCompatibleFamily {P : Cᵒᵖ ⥤ Type v₁} :
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Sites/IsSheafFor.lean:487]: This should be deprecated

File: Mathlib/CategoryTheory/Sites/IsSheafFor.lean [hunk 3]
```diff
@@ -476,62 +476,82 @@ See the discussion before Equation (3) of [MM92], Chapter III, Section 4. See al
...
-        apply t.2.to_sieveCompatible _ }
-  left_inv α := by
-    ext X ⟨_, _⟩
-    rfl
-  right_inv := by
-    rintro ⟨x, hx⟩
-    rfl
-
-/-- (Implementation). A lemma useful to prove `isSheafFor_iff_yonedaSheafCondition`. -/
-theorem extension_iff_amalgamation {P : Cᵒᵖ ⥤ Type v₁} (x : S.functor ⟶ P) (g : yoneda.obj X ⟶ P) :
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Sites/IsSheafFor.lean:510]: This should be deprecated

File: Mathlib/CategoryTheory/ShrinkYoneda.lean [hunk 4]
```diff
@@ -100,6 +100,20 @@ lemma shrinkYoneda_map_app_shrinkYonedaObjObjEquiv_symm
       shrinkYonedaObjObjEquiv.symm (f ≫ g) := by
   simp [shrinkYoneda, shrinkYonedaObjObjEquiv]
 
+set_option backward.isDefEq.respectTransparency false in
+lemma shrinkYonedaObjObjEquiv_map_app
```
Comment (joelriou) [inline Mathlib/CategoryTheory/ShrinkYoneda.lean:105]:
```suggestion
@[reassoc]
lemma shrinkYonedaObjObjEquiv_map_app
```

File: Mathlib/CategoryTheory/ShrinkYoneda.lean [hunk 5]
```diff
@@ -100,6 +100,20 @@ lemma shrinkYoneda_map_app_shrinkYonedaObjObjEquiv_symm
...
+    {X X' : C} {Y : Cᵒᵖ} (f : (shrinkYoneda.{w, v, u}.obj X).obj Y) (g : X ⟶ X') :
+    shrinkYonedaObjObjEquiv ((shrinkYoneda.map g).app Y f) =
+      shrinkYonedaObjObjEquiv f ≫ g := by
+  simp [shrinkYoneda, shrinkYonedaObjObjEquiv]
+
+set_option backward.isDefEq.respectTransparency false in
+lemma shrinkYonedaObjObjEquiv_obj_map {X : C} {Y Y' : Cᵒᵖ} (g : Y ⟶ Y')
```
Comment (joelriou) [inline Mathlib/CategoryTheory/ShrinkYoneda.lean:113]:
```suggestion
@[reassoc]
lemma shrinkYonedaObjObjEquiv_obj_map {X : C} {Y Y' : Cᵒᵖ} (g : Y ⟶ Y')
```

**Comment by joelriou** [comment]
Thanks!

bors d+
